US04022900
5-Amino-2-methyl-1,2,3,4-tetrahydroisoquinoline was reacted with 2,6-dimethoxybenzoyl chloride according to the procedure of Example 19 to yield 5-(2,6-dimethoxybenzamido)-2-methyl-1,2,3,4-tetrahydroisoquinoline; m.p. 191°-192° C. after recrystallization from benzene.

reactant | 5-Amino-2-methyl-1,2,3,4-tetrahydroisoquinoline | NC1=C2CCN(CC2=CC=C1)C | C10H14N2
reactant | 2,6-dimethoxybenzoyl chloride | COC1=C(C(=O)Cl)C(=CC=C1)OC | C9H9ClO3
product | 5-(2,6-dimethoxybenzamido)-2-methyl-1,2,3,4-tetrahydroisoquinoline | COC1=C(C(=O)NC2=C3CCN(CC3=CC=C2)C)C(=CC=C1)OC | C19H22N2O3
